US08022223B2
Step A: Preparation of methyl 3-(5-amino-6-phenoxypyrazin-2-ylthio)propanoate:
Prepared according to the method of Example from 5-Bromo-3-phenoxypyrazin-2-amine and methyl 3-mercaptopropanoate.

reactant | 5-Bromo-3-phenoxypyrazin-2-amine | BrC=1N=C(C(=NC1)N)OC1=CC=CC=C1 | C10H8BrN3O
reactant | methyl 3-mercaptopropanoate | SCCC(=O)OC | C4H8O2S
product | methyl 3-(5-amino-6-phenoxypyrazin-2-ylthio)propanoate | NC=1N=CC(=NC1OC1=CC=CC=C1)SCCC(=O)OC | C14H15N3O3S
